US04051254
3-methyl-4-(chloromethanesulfonamido)phenyl N-methylcarbamate
According to the procedure of Example 2, 3-methyl-4-aminophenyl N-methylcarbamate (1.8g., 0.01 mole) was reacted with chloromethanesulfonyl chloride (1.63g., 0.011 mole). The product, recrystallized from ethanol/water, was an orange-red solid (m.p. 136.5°-38.5° C.).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.01 mole, 1.8g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | chloromethanesulfonyl chloride | 0.011 mole, 1.63g | ClCS(=O)(=O)Cl | CH2Cl2O2S
product | 3-methyl-4-(chloromethanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NS(=O)(=O)CCl)C)=O | C10H13ClN2O4S
